US09126945B2
N-{4-Chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-N-ethyl-3-(pentafluoroethyl)-1-propyl-4-(trifluoromethyl)-1H-pyrazole-5-carboxamide
70 mg (0.13 mmol) of N-{4-chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-3-(pentafluoroethyl)-1-propyl-4-(trifluoromethyl)-1H-pyrazole-5-carboxamide and 35 mg (0.14 mmol) of potassium carbonate are suspended in 1.4 ml of N,N-dimethylformamide p.a. Over a period of 16 h, a total of 29 mg (0.19 mmol) of iodoethane are added gradually to the mixture. After the addition has ended, the reaction solution is stirred at room temperature for 20 h. The reaction mixture is diluted with water, and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are washed twice with saturated sodium chloride solution, dried over sodium sulphate and filtered. The solvents are removed on a rotary evaporator under reduced pressure.

reactant | N-{4-chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-3-(pentafluoroethyl)-1-propyl-4-(trifluoromethyl)-1H-pyrazole-5-carboxamide | 0.13 mmol, 70 mg | ClC1=C(C=C(C=C1)NC(=O)C1=C(C(=NN1CCC)C(C(F)(F)F)(F)F)C(F)(F)F)C(NC1(CC1)C#N)=O | C21H16ClF8N5O2
reactant | potassium carbonate | 0.14 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.19 mmol, 29 mg | ICC | C2H5I
solvent | N,N-dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{4-Chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-N-ethyl-3-(pentafluoroethyl)-1-propyl-4-(trifluoromethyl)-1H-pyrazole-5-carboxamide | ClC1=C(C=C(C=C1)N(C(=O)C1=C(C(=NN1CCC)C(C(F)(F)F)(F)F)C(F)(F)F)CC)C(NC1(CC1)C#N)=O | C23H20ClF8N5O2
